US07491732B2
A heterogeneous reaction mixture of 2-cyano-5-nitrobenzofuran (0.150 g, 0.789 mmol), iron powder (0.220 g, 3.9 mmol), NH4Cl (0.221 g, 3.9 mmol) in EtOH/H2O (5 mL each) was vigorously stirred at 60-70° C. for 1 hour. The resulting solution was filtered through a pad of Celite when hot and then washed with methanol. The filtrated was concentrated to dryness under a vacuum and resuspended into H2O (20 mL), saturated and the solid was isolated by filtration to obtain 5-amino-2-cyanobenzofuran. 1H NMR (DMSO-d6): δ 7.80 (s, 1H), 7.36 (d, 1H, J=8.7 Hz), 6.86 (dd, 1H, J=2.7 and 9.0 Hz), 6.76 (d, 1H, J=2.1 Hz), 5.16 (bs, 2H); LCMS: purity: 95%, MS (m/e): 159 (MH+).

reactant | 2-cyano-5-nitrobenzofuran | 0.789 mmol, 0.150 g | C(#N)C=1OC2=C(C1)C=C(C=C2)[N+](=O)[O-] | C9H4N2O3
reactant | NH4Cl | 3.9 mmol, 0.221 g | [NH4+].[Cl-]
solvent | EtOH H2O | 5 mL | CCO.O
catalyst | iron | 3.9 mmol, 0.220 g | [Fe] | Fe
product | 5-amino-2-cyanobenzofuran | NC=1C=CC2=C(C=C(O2)C#N)C1 | C9H6N2O
